US07989438B2
Step 6: methyl 7(R,S)-(2-{[N-(tert-butoxycarbonyl)-β-alanyl]amino}ethyl)-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate
A solution of methyl 7(R,S)-(2-aminoethyl)-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate (0.14 M) in DCM was treated with N-(tert-butoxycarbonyl)-β-alanine (2 eq) followed by HATU (1.3 eq) and DIPEA (2.5 eq) and the resulting mixture was stirred overnight at RT. The reaction was diluted with EtOAc and the combined organic layers were washed with sat. aq. NaHCO3, HCl (1N) and brine, before being dried (Na2SO4), filtered and concentrated in vacuo. The product was used directly in the next step without further purification. (ES+) m/z 604 (M+H)+.

reactant | methyl 7(R,S)-(2-aminoethyl)-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | 0.14 M | NCCC1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)OC)C=CC=C2 | C27H32N2O3
reactant | N-(tert-butoxycarbonyl)-β-alanine | 2 eq | C(C)(C)(C)OC(=O)NCCC(=O)O | C8H15NO4
reactant | HATU | 1.3 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 2.5 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 7(R,S)-(2-{[N-(tert-butoxycarbonyl)-β-alanyl]amino}ethyl)-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | C(C)(C)(C)OC(=O)NCCC(=O)NCCC1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)OC)C=CC=C2 | C35H45N3O6
